US05891359
(1) Synthesis of 4-n-decyloxycarbonyl-4'-hydroxy-biphenyl
To a solution of n-decanol (1.6 g) and 4-methylcarbonyloxy-4'-carboxybiphenyl (2.6 g) in tetrahydrofuran (50 ml) were added dicyclohexylcarbodiimide (1.4 g) and dimethylaminopyridine (0.5 g), followed by stirring at room temperature for 24 hours. Thereto was added tert-butylamine and the mixture was refluxed at 70° C. for 2 hours and hydrolyzed. After the solvent was distilled off, dilute hydrochloric acid was added to make the solution neutral and the solution was extracted with diethyl ether. After the solvent was distilled off, the residue was washed with hexane and recrystallized from water/ethanol (1/9) solution to obtain the titled compound (about 2.3 g).

reactant | n-decanol | 1.6 g | C(CCCCCCCCC)O | C10H22O
reactant | 4-methylcarbonyloxy-4'-carboxybiphenyl | 2.6 g | CC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C15H12O4
reactant | dicyclohexylcarbodiimide | 1.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 0.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4-n-decyloxycarbonyl-4'-hydroxy-biphenyl | about 2.3 g | C(CCCCCCCCC)OC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C23H30O3
